US05202318
To a solution of stannous chloride (5.0 g; 22.2 mmol) and 2-(1-benzylpiperidin-4-yl)-2,3-dihydro-6-nitro-1H-benz[de]isoquinoline-1,3-dione (1.9 g; 4.75 mmol), prepared as in Example 3, in glacial acetic acid (5 mL) was added 10% hydrochloric acid (7 mL). The reaction mixture was stirred for 2 hours and then a mixture of 10% sodium hydroxide and methylene chloride was added. The aqueous layer was extracted three additional times with methylene chloride and then the combined extracts were dried over potassium carbonate. Filtration and concentration of the methylene chloride extracts gave 6-amino-2-(1-benzylpiperidin-4-yl)-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione (1.5 g; 3.90 mmol), m.p. 226°-228° C. Anal.: Calcd. for C21H21N3O3Cl2 . 0.333 H2O: C, 57.30; H, 4.96; N, 9.54. Found: C, 57.39; H, 5.06; N, 9.52.

reactant | 2-(1-benzylpiperidin-4-yl)-2,3-dihydro-6-nitro-1H-benz[de]isoquinoline-1,3-dione | 4.75 mmol, 1.9 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3[N+](=O)[O-])=O | C24H21N3O4
reactant | hydrochloric acid | 7 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 6-amino-2-(1-benzylpiperidin-4-yl)-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione | 3.90 mmol, 1.5 g | NC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)C2CCN(CC2)CC2=CC=CC=C2)=O | C24H23N3O2
